US04282170
9-Carbamoyl-9-(2-cyanoethyl)fluorene
A 4.2 g. portion of 9-carbamoylfluorene was dissolved in 300 ml. of dioxane at 45° C. To the solution was added 0.4 ml. of Triton B (40% benzyltrimethylammonium hydroxide in methanol) and 1.1 g. of acrylonitrile. The reaction mixture was stirred at 70° C. for one hour and was then allowed to cool to ambient temperature and stand overnight. The dioxane was removed under vacuum, and the remaining oil was taken up in ethyl acetate/water. The layers were separated, and the organic layer was washed three times with water and once with saturated sodium chloride solution. The organic layer was then dried over magnesium sulfate, filtered and evaporated under vacuum to a foam, which was taken up in dichloromethane. The solution was boiled, and hexane was added until crystallization occurred. The mixture was chilled overnight, and the crystals were collected by filtration. The crystals were washed with hexane and dried under vacuum at 40° to obtain 3.2 g. of the desired product, m.p. 148°-152°, with sintering at 143°.

reactant | 9-carbamoylfluorene | C(N)(=O)C1C2=CC=CC=C2C=2C=CC=CC12 | C14H11NO
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | methanol | CO | CH4O
product | 9-Carbamoyl-9-(2-cyanoethyl)fluorene | C(N)(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCC#N | C17H14N2O
